US04861793
To a solution of 5 g of 6-methyl-8β-hydroxyergoline in 80 ml of pyridine, 3.2 ml of methanesulfonyl chloride were slowly added at room temperature. The mixture obtained was heated at 80° C. for about 3 hours and then evaporated. The residue was taken up with chloroform and washed with saturated aqueous sodium bicarbonate solution and then water. Evaporation of the organic solvent yielded a residue which was chromatographed over a silica gel column using cyclohexane:acetone 8:2 by volume as eluant. Fractions containing the product were combined and crystallized from methanol to give 3.8 g of 6-methyl-8β-chloro-ergoline, m.p. 195°-197° C.

reactant | 6-methyl-8β-hydroxyergoline | 5 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)O | C15H18N2O
reactant | methanesulfonyl chloride | 3.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 6-methyl-8β-chloro-ergoline | 3.8 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)Cl | C15H17ClN2
